US08080541B2
Step 1. Preparation of 2-Benzyloxy-6-methoxy-4-trifluoromethyl-benzonitrile
To a solution of 200 mg (0.813 mmol) 2-methoxy-6-nitro-4-trifluoromethyl-benzonitrile in 2 ml dioxane under argon at 0° C., was added 425.3 ul (4.065 mmol) benzyl alcohol, followed by a dropwise addition of a solution of 82.2 mg (1.260 mmol) potassium hydroxide in 600 ul water. The mixture was stirred at 0° C. for 30 minutes and then at room temperature overnight. The reaction mixture was poured into ice water. The resulting suspension was filtered and dried in vacuo to provide 196 mg (y: 78.5%) of the title compound as a white solid.

reactant | 2-methoxy-6-nitro-4-trifluoromethyl-benzonitrile | 0.813 mmol, 200 mg | COC1=C(C#N)C(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C9H5F3N2O3
reactant | benzyl alcohol | 4.065 mmol, 425.3 ul | C(C1=CC=CC=C1)O | C7H8O
reactant | potassium hydroxide | 1.260 mmol, 82.2 mg | [OH-].[K+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | water | 600 ul | O | H2O
product | 2-Benzyloxy-6-methoxy-4-trifluoromethyl-benzonitrile | C(C1=CC=CC=C1)OC1=C(C#N)C(=CC(=C1)C(F)(F)F)OC | C16H12F3NO2
